US07662771B2
5-[4-(2-Methanesulfonylamino-phenyl)-oxazol-2-yl]-pentanoic acid methyl ester
Dissolve 5-[4-(2-amino-phenyl)-oxazol-2-yl]-pentanoic acid methyl ester (2.18 g, 7.96 mmol) in THF (50 mL) and add pyridine (1.20 mL, 14.8 mmol). Add methanesulfonyl chloride (excess) and allow the mixture to stir at room temperature until reaction is complete. Concentrate the mixture and quench the residue with ice/aq NaHCO3 and extract with EtOAc. Dry the combined extracts over Na2SO4 and concentrate. Chromatograph the residue over silica gel (EtOAc/CH2Cl2) to allow for isolation of 5-[4-(2-methanesulfonylamino-phenyl)-oxazol-2-yl]-pentanoic acid methyl ester (2.8 g, 100%). MS (ES): (M+1)+ 353.2, 354.3 m/z.

reactant | 5-[4-(2-amino-phenyl)-oxazol-2-yl]-pentanoic acid methyl ester | 7.96 mmol, 2.18 g | COC(CCCCC=1OC=C(N1)C1=C(C=CC=C1)N)=O | C15H18N2O3
reactant | pyridine | 14.8 mmol, 1.20 mL | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 5-[4-(2-Methanesulfonylamino-phenyl)-oxazol-2-yl]-pentanoic acid methyl ester | COC(CCCCC=1OC=C(N1)C1=C(C=CC=C1)NS(=O)(=O)C)=O | C16H20N2O5S
